US07067540B2
Step 1: Preparation of methyl 5-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)-2-furoate.
To a room temperature solution of methyl-2-amino-5-furoate (4.85 g, 34.4 mmol) in 1,4 dioxane (28.0 mL) was added 5-(1-hydroxy-3-oxobutylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (8.16 g, 44.3 mmol). The reaction was stirred vigorously and heated quickly (within 8 minutes) to an internal temperature of 98° C. Upon reaching temperature, the reaction was maintained for 1.0 hour. At this time, the reaction was cooled to room temperature rapidly using an ice-bath and methane sulfonic acid (3.30 g, 34.4 mmol) was added. The reaction mixture was once again brought to an internal temperature of approximately 100° C. After 1.0 hour the reaction was diluted with 10 mL of toluene and allowed to cool to room temperature on its own accord. A solid formed after 3.0 hours that was collected and subsequently recrystallized from methanol/ethyl acetate (1:1). The developing crystals were allowed to form and stand for 12.0 hours prior to collection to furnish the desired product as a solid (3.78 g, 44%). 1H NMR (400 MHz, d7-DMF) δ 11.34 (s, 1H), 7.43 (app d, J=3.6 Hz, 1H), 6.79 (app d, J=3.6 Hz, 1H), 6.01 (s, 1H), 5.63 (d, J=2.0 Hz, 1H), 3.87 (s, 3H), 2.02 (s, 3H); LC/MS C-18 column, tr=1.47 minutes (5 to 95% acetonitrile/water over 5 minutes at 1 ml/min with detection 254 nm, at 50° C.). ES-MS m/z 250 (M+H). ES-HRMS m/z 250.0696 (M+H calcd for C12H12NO5 requires 250.0710). Step 2: Preparation of methyl 5-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-2-furoate.

reactant | methyl-2-amino-5-furoate | 34.4 mmol, 4.85 g | COC(=O)C1=CC=C(O1)N | C6H7NO3
reactant | 5-(1-hydroxy-3-oxobutylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 44.3 mmol, 8.16 g | OC(CC(C)=O)=C1C(OC(OC1=O)(C)C)=O | C10H12O6
reactant | methane sulfonic acid | 34.4 mmol, 3.30 g | CS(=O)(=O)O | CH4O3S
solvent | 1,4 dioxane | 28.0 mL | O1CCOCC1 | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 5-(4-hydroxy-6-methyl-2-oxopyridin-1(2H)-yl)-2-furoate | 3.78 g, 44% | OC1=CC(N(C(=C1)C)C1=CC=C(O1)C(=O)OC)=O | C12H11NO5
